US09079860B2
Part A: 5-Acetyl-2-cyano-benzoic acid methyl ester
Triflic anhydride (10 g, 35.4 mmol) was added dropwise to a cold (−40° C.) solution of 5-acetyl-2-hydroxy-benzoic acid methyl ester (6.9 g, 35.4 mmol) and DIPEA (5.3 g, 42.5 mmol) in CH2Cl2 (100 mL). The reaction was warmed to −10° C. and stirred for 16 h. The reaction was warmed to rt, evaporated to dryness in vacuo, and re-dissolved in EtOAc. The organic layer was washed with ½ sat. brine, dried over MgSO4, filtered and evaporated in vacuo. A portion of the crude triflate (5.01 g, 15.3 mmol) was dissolved in DMF (40 mL). Palladium(0)tetrakis(triphenylphosphine) (1.3 g, 1.1 mmol) and zinc cyanide (2.16 g, 18.4 mmol) were added to the flask, and the mixture was heated to 90° C. for 2.5 h. The reaction was cooled to rt and stirred with a 1:1 solution of conc. NH4OH and water (160 mL). The resulting suspension was extracted with ETOAc. The combined organic extracts were washed with ½ sat. brine, dried over MgSO4, filtered and evaporated in vacuo. The title compound was isolated by SiO2 chromatography to yield 439 mg (14%) of a white solid. MS 221.1 (M+NH4)+.

reactant | Triflic anhydride | 35.4 mmol, 10 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 5-acetyl-2-hydroxy-benzoic acid methyl ester | 35.4 mmol, 6.9 g | COC(C1=C(C=CC(=C1)C(C)=O)O)=O | C10H10O4
reactant | DIPEA | 42.5 mmol, 5.3 g | CCN(C(C)C)C(C)C | C8H19N
reactant | triflate | 15.3 mmol, 5.01 g | [O-]S(=O)(=O)C(F)(F)F
reactant | NH4OH | [NH4+].[OH-]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 18.4 mmol, 2.16 g | [C-]#N.[Zn+2].[C-]#N
solvent | water | 160 mL | O | H2O
product | 5-Acetyl-2-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C(C)=O)C#N)=O | C11H9NO3
